US08067448B2
N′-((2R,3R)-2-(3-Chloro-4-cyanophenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide
To a pre-cooled (−30° C.) solution of (2R,3R)-2-(3-chloro-4-cyanophenylamino)-3-hydroxybutanoic acid (1.06 g, 4.16 mmol) and 4-cyanobenzohydrazide (671 mg, 4.16 mmol) in anhydrous THF (60 mL) was added 1-Hydroxybenzotriazole monohydrate (637 mg, 4.16 mmol) and N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl (1.60 g, 8.32 mmol) at −30° C. followed by triethylamine (1.16 mL, 8.32 mmol). The reaction mixture warmed to room temperature and stirred for 16 h, then quenched with 5% aq. citric acid (150 mL). The solution was extracted with EtOAc (150 mL). The organic extract was washed with 5% aq. citric acid (2×75 mL), sat. aq. NaHCO3 (3×80 mL), H2O (2×100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound as an off white solid (1.65 g, 100%): 1H NMR (400 MHz, acetone-d6, δ in ppm) 8.11 (dm, J=8.8 Hz, 2H), 7.94 (dm, J=8.6 Hz, 2H), 7.54 (d, J=8.6 Hz, 1H), 6.96 (d, J=2.3 Hz, 1H), 6.85 (dd, J=2.3, 8.8 Hz, 1H), 6.44 (d, J=7.4 Hz, 1H), 4.21-4.11 (m, 2H), 1.35 (d, J=6.3 Hz, 3H).

reactant | (2R,3R)-2-(3-chloro-4-cyanophenylamino)-3-hydroxybutanoic acid | 4.16 mmol, 1.06 g | ClC=1C=C(C=CC1C#N)N[C@@H](C(=O)O)[C@@H](C)O | C11H11ClN2O3
reactant | 4-cyanobenzohydrazide | 4.16 mmol, 671 mg | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
reactant | 1-Hydroxybenzotriazole monohydrate | 4.16 mmol, 637 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodimide-HCl | 8.32 mmol, 1.60 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 8.32 mmol, 1.16 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | N′-((2R,3R)-2-(3-Chloro-4-cyanophenylamino)-3-hydroxybutanoyl)-4-cyanobenzohydrazide | ClC=1C=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)C#N)=O)[C@@H](C)O | C19H16ClN5O3
